US07902224B2
6-(2-Iodophenyl)-3-hexanone
Lithium chloride (6.6 g, 150 mmole) (dried overnight at 115° C. under vacuum) and copper(I) cyanide (6.72 g, 75 mmole) were stirred with tetrahydrofuran (75 ml) under nitrogen for 10 minutes then cooled to −78° C. A solution of 2-iodobenzyl zinc bromide (150 ml, 0.5M in THF, 75 mmol) was added and the mixture was warmed to −15° C., held at this temperature for 20 min then re-cooled to −78° C. Chlorotrimethylsilane (19.1 ml, 150 mmol) was added followed by a solution of ethyl vinyl ketone (7.4 ml, 74.3 mmol) in tetrahydrofuran (15 ml). The mixture was stirred at −78° C. for 3 hours then warmed to room temperature and stirred for 1 hour before being poured into a mixture of water (400 ml) and ether (400 ml). The aqueous layer was extracted with ether (2×400 ml) and the combined ethereal solutions were washed with brine (2×200 ml), dried over anhydrous magnesium sulphate and evaporated in vacuo to give the title compound as a pale yellow liquid (23 g).

reactant | Lithium chloride | 150 mmole, 6.6 g | [Cl-].[Li+]
reactant | copper(I) cyanide | 75 mmole, 6.72 g | [Cu]C#N
reactant | 2-iodobenzyl zinc bromide | 75 mmol, 0.5M, 150 ml | [Br-].IC1=C(C[Zn+])C=CC=C1
reactant | Chlorotrimethylsilane | 150 mmol, 19.1 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | ethyl vinyl ketone | 74.3 mmol, 7.4 ml | C(=C)C(=O)CC | C5H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | water | 400 ml | O | H2O
product | 6-(2-Iodophenyl)-3-hexanone | 23 g | IC1=C(C=CC=C1)CCCC(CC)=O | C12H15IO
